US07425642B2
Ethyl 2-[2-(4-bromophenyl)ethoxy]-2-methylpropionate
To a solution of 2-(4-bromophenyl)ethanol (1 g, 5 mmol) in THF (15 ml) was added sodium hydride (60% in parafin liquid) (220 mg, 5.5 mmol) at 0° C., and the mixture was stirred at room temperature for 15 minutes. To the mixture was added ethyl 2-bromoisobutyrate (1.08 g, 5.5 mmol), and the mixture was stirred at room temperature for 12 hours. To this reaction solution were added ethyl acetate and a saturated aqueous ammonium chloride solution, and the organic layer was separated. The aqueous layer was extracted twice with ethyl acetate, and the extracts were combined with the organic layer. The organic layer was collected, dried over anhydrous sodium sulfate, filtered, and the solvent was evaporated under reduced pressure. The resultant was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give the title compound (240 mg, 15%).

reactant | 2-(4-bromophenyl)ethanol | 5 mmol, 1 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | sodium hydride | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | ethyl 2-bromoisobutyrate | 5.5 mmol, 1.08 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Ethyl 2-[2-(4-bromophenyl)ethoxy]-2-methylpropionate | 240 mg, 15% | BrC1=CC=C(C=C1)CCOC(C(=O)OCC)(C)C | C14H19BrO3
